US04161478
A mixture of 11.75 parts of diphenyliodonium hexafluoroarsenate, 4.065 parts of diphenyl sulfide and 0.2 part of copper benzoate was heated with stirring at a temperature of 120°-125° C. for 3 hours. The mixture was then poured while it was hot into a container whereupon the product crystallized. The product was extracted three times with diethylether and then air dried. There was obtained a 97% yield of triphenylsulfonium hexafluoroarsenate. The triphenylsulfonium hexafluoroarsenate product had a melting point of 195°-197° C. after it was further recrystallized from 95% ethanol.

reactant | diphenyliodonium hexafluoroarsenate | F[As-](F)(F)(F)(F)F.C1(=CC=CC=C1)[I+]C1=CC=CC=C1
reactant | diphenyl sulfide | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
catalyst | copper benzoate | C(C1=CC=CC=C1)(=O)[O-].[Cu+2].C(C1=CC=CC=C1)(=O)[O-]
product | triphenylsulfonium hexafluoroarsenate | 97% yield | F[As-](F)(F)(F)(F)F.C1(=CC=CC=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H15S.AsF6/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;2-1(3,4,5,6)7/h1-15H;/q+1;-1
